US07691877B2
N2,N4-Dibenzyl-6-oxazol-2-yl-pyridine-2,3,4-triamine
N*2*,N*4*-Dibenzyl-3-nitro-6-oxazol-2-yl-pyridine-2,4-diamine (1.02 g, 2.54 mmol) was dissolved in THF (60 ml) then MeOH (60 ml) was added. The solution was hydrogenated over Raney nickel (210 mg, 0.25 mmol) under a hydrogen atmosphere (80 psi) for 1 hour. The reaction mixture was filtered through a Celite pad then evaporated to yield the title compound as a brown gum (944 mg, 100%). Taken on without further purification due to stability concerns.

reactant | N*2*,N*4*-Dibenzyl-3-nitro-6-oxazol-2-yl-pyridine-2,4-diamine | 2.54 mmol, 1.02 g | C(C1=CC=CC=C1)NC1=NC(=CC(=C1[N+](=O)[O-])NCC1=CC=CC=C1)C=1OC=CN1 | C22H19N5O3
reactant | MeOH | 60 ml | CO | CH4O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
catalyst | Raney nickel | 0.25 mmol, 210 mg | [Ni] | Ni
product | N2,N4-Dibenzyl-6-oxazol-2-yl-pyridine-2,3,4-triamine | 944 mg, 100% | C(C1=CC=CC=C1)NC1=NC(=CC(=C1N)NCC1=CC=CC=C1)C=1OC=CN1 | C22H21N5O
